US04219660
Preparation of 3-methyl-4-nitro-2-butene-1-ol-phenylcarbamate
0.1 Mol of 4-nitro-3-methyl-2-butenol and 0.1 Mol of phenylisocyanate were treated at 60°-80° C. for 3 hours. The reaction mixture was left for several hours at room temperature before dissolving it in hot benzene. The benzene solution was filtered and evaporated. The residue was crystallized from hot ligroin. Yellow crystals, m.p. 63°-66°, were obtained.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | phenylisocyanate | 0.1 Mol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-nitro-2-butene-1-ol phenylcarbamate | CC(=CCO)C[N+](=O)[O-].C1(=CC=CC=C1)NC([O-])=O | InChI=1S/C7H7NO2.C5H9NO3/c9-7(10)8-6-4-2-1-3-5-6;1-5(2-3-7)4-6(8)9/h1-5,8H,(H,9,10);2,7H,3-4H2,1H3/p-1
